US03952001
A solution of 25.8 g. 3-ethylthio-1,2,4-triazole and 15.8 g. dry pyridine in 100 ml. dry tetrahydrofuran was added dropwise to 200 ml. of a 10% w/v solution of phosgene in dry tetrahydrofuran (20 g. phosgene, 1 molecular proportion), with stirring and cooling to maintain the reaction temperature at 25° - 30°C. The mixture was stirred at 25° - 30°C. for a further period of 0.5 hour, and was then filtered to remove pyridine hydrochloride formed in the reaction. To the resulting solution of 3-ethylthio-1,2,4-triazole-1-carbonyl chloride was added dropwise a solution of 20.2 g. dipropylamine and 15.8 g. dry pyridine in 50 ml. dry tetrahydrofuran, with stirring and cooling to maintain the reaction temperature at 25° - 30°C. The mixture was stirred at 25° - 30°C. for a further period of 0.5 hour, and was then filtered to remove pyridine hydrochloride formed in the reaction. The filtrate was evaporated under reduced pressure to remove solvent and the residual oil was dissolved in methylene dichloride. The resulting solution was washed successively with 0.5N sodium hydroxide solution, water, and finally 0.5N hydrochloric acid. The washed solution was distilled under reduced pressure to give 1-dipropylcarbamoyl-3-ethylthio-1,2,4-triazole, b.p. 130°C./0.5 mm. Elemental analysis satisfactory.

reactant | 3-ethylthio-1,2,4-triazole | C(C)SC1=NNC=N1 | C4H7N3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 3-ethylthio-1,2,4-triazole-1-carbonyl chloride | C(C)SC1=NN(C=N1)C(=O)Cl | C5H6ClN3OS
reactant | dipropylamine | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 20 g | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-dipropylcarbamoyl-3-ethylthio-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)SCC)CCC | C11H20N4OS
